US05444086
2-Hydroxy-3-(2-naphthalenylmethyl)-2-cyclopenten-1-one
Step b) A mixture of 3-hydroxy-1-naphthalen-2-ylmethyl-2-oxo-cyclopent-3-enecarboxylic acid methyl ester (3.0 g, 10.71 mmol), dioxane (50 ml), and HCl (10N, 50 ml) was stirred at 100° C. for 5 hours. The mixture was cooled to room temperature, poured into H2O and extracted with EtOAc. The organic extracts were dried over MgSO4. Evaporation and crystallization from acetone/ether gave a brown solid (1.75 g, 69%): m.p. 120°-122° C.

reactant | 3-hydroxy-1-naphthalen-2-ylmethyl-2-oxo-cyclopent-3-enecarboxylic acid methyl ester | 10.71 mmol, 3.0 g | COC(=O)C1(C(C(=CC1)O)=O)CC1=CC2=CC=CC=C2C=C1 | C18H16O4
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
reactant | HCl | 10N, 50 ml | Cl | ClH
solvent | H2O | O | H2O
product | 2-Hydroxy-3-(2-naphthalenylmethyl)-2-cyclopenten-1-one | 1.75 g, 69% | OC=1C(CCC1CC1=CC2=CC=CC=C2C=C1)=O | C16H14O2
